US04298529
A solution of sodium hydroxide (8.64 g) in water (20 ml) was added to a solution of ethyl 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyrate (syn isomer, 26.6 g) in methanol (60 ml) under ice-cooling, stirred at ambient temperature for 2 hours. Water (100 ml) was added to the resultant solution and adjusted to pH 7.0 with 20% sulfuric acid under ice-cooling. After removing methanol therefrom in vacuo, the solution was washed with diethyl ether (100 ml). Diethyl ether (100 ml) was added to the aqueous layer and adjusted to pH 2.0 with 20% sulfuric acid below 10° C. The organic layer was separated, and then the aqueous layer was extracted with diethyl ether (100 ml) twice. The organic layer was washed with water and a sodium chloride saturated aqueous solution in turn, and dried over magnesium sulfate. The solution was concentrated in vacuo and the residue was allowed to stand in refrigerator overnight to give 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyric acid (syn isomer, 18.0 g). (Yield: 74.7%).

reactant | sodium hydroxide | 8.64 g | [OH-].[Na+]
reactant | ethyl 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyrate | 26.6 g | CON=C(C(=O)OCC)C1(CBr)OCCO1 | C9H14BrNO5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
solvent | Water | 100 ml | O | H2O
product | 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyric acid | 18.0 g, Yield: 74.7% | CON=C(C(=O)O)C1(CBr)OCCO1 | C7H10BrNO5
